US05859007
N-Isopropyl-N-(4-methoxy-phenyl)-2-(3-naphthalen-2-ylmethyl-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl) acetamide
To a stirring solution of 300 mg (0.66 mmol) of 2-(2,4-Dioxo-5-phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl)-N-isopropyl-N-(4-methoxy-phenyl) acetamide, prepared as in Intermediate 4, in 10 mL DMF at 0° C. is added dropwise over 5 min 1.45 mL (0.72 mmol, 1.1 equiv) of a 0.5M solution of KN(TMS)2 in toluene. The resulting solution is stirred 10 min, and then a solution of 160 mg (0.72 mmol, 1.1 equiv) of 2-bromomethylnaphthalene in 3 mL DMF is added. The resulting solution is stirred 2 h at RT and then quenched with 5 mL of H2O. The reaction mixture is poured into 50 mL of Et2O and extracted with H2O (2×50 mL). The organic layer is separated, dried (MgSO4), and the solvents removed in vacuo. Purification of the material by silica gel MPLC on an Si60 column using hexane/EtOAc 2/1 as eluent followed by lyophilization in acetonitrile/H2O afforded 310 mg of the title compound as a white amorphous solid: 1H NMR (CDCl3, 300 MHz) δ7.80-7.70 (m, 3H), 7.45-6.93 (m, 16H), 6.84 (dd, 1H, J=1.2, 8.3), 5.04 (m, 1H), 4.35 (d, 1H, J=16.3), 4.13 (d, 1H, J=16.3), 3.85 (s, 3H), 3.68 (m, 2H), 3.48 (dd, 1H, J=4.6, 13.7), 1.09 (d, 6H, J=6.8); low resolution MS (FAB)m/e 598 (MH+), 597 (M+), 433.

reactant | 2-(2,4-Dioxo-5-phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl)-N-isopropyl-N-(4-methoxy-phenyl) acetamide | 0.66 mmol, 300 mg | O=C1CC(N(C2=C(N1CC(=O)N(C1=CC=C(C=C1)OC)C(C)C)C=CC=C2)C2=CC=CC=C2)=O | C27H27N3O4
reactant | 2-bromomethylnaphthalene | 0.72 mmol, 160 mg, 1.1 equiv | BrCC1=CC2=CC=CC=C2C=C1 | C11H9Br
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | N-Isopropyl-N-(4-methoxy-phenyl)-2-(3-naphthalen-2-ylmethyl-2,4-dioxo-5-phenyl-2,3,4,5-tetrahydro-benzo[b][1,4]diazepin-1-yl) acetamide | 310 mg | C(C)(C)N(C(CN1C2=C(N(C(C(C1=O)CC1=CC3=CC=CC=C3C=C1)=O)C1=CC=CC=C1)C=CC=C2)=O)C2=CC=C(C=C2)OC | C38H35N3O4
